US04397853
To a solution of 7 g of ethyl 5-phenyl-4,5-dihydroisoxazol-3-ylcarboxylate in 70 ml of methanol, cooled with ice, is added 1.5 g of sodium borohydride in small portions with stirring. After 4 hours has passed, the solvent is distilled off under reduced pressure and the residue is extracted with ethyl acetate. The extract is washed with water, dried and the solvent is evaporated. The crystalline residue thus obtained is recrystallized from isopropyl ether, giving 3-hydroxymethyl-5-phenyl-4,5-dihydroisoxazole in the form of white crystals. Melting point: 73°-74° C.

reactant | ethyl 5-phenyl-4,5-dihydroisoxazol-3-ylcarboxylate | 7 g | C1(=CC=CC=C1)C1CC(=NO1)C(=O)OCC | C12H13NO3
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 3-hydroxymethyl-5-phenyl-4,5-dihydroisoxazole | OCC1=NOC(C1)C1=CC=CC=C1 | C10H11NO2
